US06291671B1
The resulting Boc-Gly-Phe-Gly-OBzl (1.78 g) was dissolved in ethyl acetate (60 ml) and subjected to catalytic reduction for 24 hours in the presence of 5%-Pd-C (1.8 g). The catalyst was removed by filtration and the filtrate was concentrated under reduced pressure to obtain Boc-Gly-Phe-Gly-OH (1.41 g).

reactant | Boc-Gly-Phe-Gly-OBzl | 1.78 g | N(CC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C25H31N3O6
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd-C | 1.8 g | [Pd] | Pd
product | Boc-Gly-Phe-Gly-OH | 1.41 g | N(CC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)O)C(=O)OC(C)(C)C | C18H25N3O6
